US07915250B2
A solution of 1,1-dimethylethyl{(1R)-1-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]ethyl}carbamate (333 mg, 0.56 mmol) in methanol (10 mL) was treated with hydrochloric acid (4 N in dioxane, 1.4 mL, 5.6 mmol) at 60° C. for 30 min. After cooling, the volatile materials were removed in vacuo to provide 3-[(1R)-1-aminoethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol hydrochloride as a white solid (285 mg, 0.54 mmol, 97% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.56 (s, 1H), 7.83 (br s, 3H), 7.59 (dd, 1H), 7.39 (d, 1H), 7.34 (m, 1H), 7.21 (q, 1H), 6.69 (m, 1H), 6.65 (s, 1H), 4.25 (dd, 1H), 4.10 (dd, 1H), 3.98 (dd, 1H), 3.80 (m, 1H), 3.48 (m, 1H), 1.11 (dd, 3H); MS (EI) for C18H17F3IN3O2: 492 (MH+)

reactant | 1,1-dimethylethyl{(1R)-1-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]ethyl}carbamate | 0.56 mmol, 333 mg | CC(C)(C)N(C([O-])=O)[C@H](C)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O
reactant | hydrochloric acid | 5.6 mmol, 4 N, 1.4 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 3-[(1R)-1-aminoethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol hydrochloride | 0.54 mmol, 285 mg, 97% yield | Cl.N[C@H](C)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | InChI=1S/C18H17F3IN3O2.ClH/c1-9(23)18(27)7-25(8-18)17(26)11-3-4-12(19)15(21)16(11)24-14-5-2-10(22)6-13(14)20;/h2-6,9,24,27H,7-8,23H2,1H3;1H/t9-;/m1./s1
